US05320765
2,6-di-tert-butyl-4-methylphenol;
2,6-di-tert-butylphenol; 2-tert-butyl-4,6-dimethylphenol; 2,6-di-tertbutyl-4-ethylphenol; 2,6-di-tert-butyl-4-ethylphenol; 2,6-di-tert-butyl-4-n-butylphenol; 2,6-di-tertbutyl-4-isobutylphenol; 2,6-dicyclopentyl-4-methylphenol; 2-(α-methylcyclohexyl)-4,6-dimethylphenol; 2,6-dioctadecyl-4-methylphenol; 2,4,6-tricyclohexylphenol; 2,6-di-tert-butyl-4-methoxymethylphenol o-tert-butylphenol.

reactant | 2,6-di-tert-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | 2-tert-butyl-4,6-dimethylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C)O | C12H18O
reactant | 2,6-di-tertbutyl-4-ethylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)CC)C(C)(C)C)O | C16H26O
reactant | 2,6-di-tert-butyl-4-n-butylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)CCCC)C(C)(C)C)O | C18H30O
reactant | 2,6-di-tertbutyl-4-isobutylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)CC(C)C)C(C)(C)C)O | C18H30O
reactant | 2,6-dicyclopentyl-4-methylphenol | C1(CCCC1)C1=C(C(=CC(=C1)C)C1CCCC1)O | C17H24O
reactant | 2,6-dioctadecyl-4-methylphenol | C(CCCCCCCCCCCCCCCCC)C1=C(C(=CC(=C1)C)CCCCCCCCCCCCCCCCCC)O | C43H80O
reactant | 2,4,6-tricyclohexylphenol | C1(CCCCC1)C1=C(C(=CC(=C1)C1CCCCC1)C1CCCCC1)O | C24H36O
reactant | 2,6-di-tert-butyl-4-methoxymethylphenol o-tert-butylphenol | C(C)(C)(C)C1=C(C=CC=C1)O.C(C)(C)(C)C1=C(C(=CC(=C1)COC)C(C)(C)C)O
product | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
